US04677098
A solution of 2-t-butyldimethylsilyloxy-dihydro-1H-pyrrolizine-3,5(2H,6H)-dione (2.1 g) in acetic acid:water, 3:1 (18 ml) is stirred at 60° C. for six hours. The solution is cooled, concentrated, toluene added and the solution reconcentrated. The oil is triturated with anhydrous ethyl ether and filtered to yield 2-hydroxy-dihydro-1H-pyrrolizine-3,5(2H,6H)-dione as a white solid with mp 135°-140° C. NMR (CDCl3) and 5.48 (m, 1H), 4.47 (m, 1H), 4.10 (b.s., 1H), 2.93-1.36 (m, 6H). IR 3310, 2860, 1770, 1710, 1655, 1410, 1372, 1307, 1275.

reactant | 2-t-butyldimethylsilyloxy-dihydro-1H-pyrrolizine-3,5(2H,6H)-dione | 2.1 g | [Si](C)(C)(C(C)(C)C)OC1CC2CCC(N2C1=O)=O | C13H23NO3Si
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-hydroxy-dihydro-1H-pyrrolizine-3,5(2H,6H)-dione | OC1CC2CCC(N2C1=O)=O | C7H9NO3
